US06333324B1
A mixture of N-(2-thienylcarbonylamino)ethanamide (5.37 g) and phosphorus oxychloride (15 ml) was stirred for 8 hours at 90° C. After cooling to ambient temperature, the mixture was concentrated. The residue was partitioned between AcOEt and saturated aqueous NaHCO3 solution. The organic layer was separated and washed with saturated aqueous NaHCO3 solution and brine. The resulting solution was dried over sodium sulfate and concentrated to give 3.65 g of 2-methyl-5-(2-thienyl)-1,3,4-oxadiazole as a solid.

reactant | N-(2-thienylcarbonylamino)ethanamide | 5.37 g | S1C(=CC=C1)C(=O)NNC(C)=O | C7H8N2O2S
reactant | phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-methyl-5-(2-thienyl)-1,3,4-oxadiazole | 3.65 g | CC=1OC(=NN1)C=1SC=CC1 | C7H6N2OS
